US07872009B2
Step 1: Methyl 1-cyclopentyl-6-oxo-5-(pyrrolidin-1-yl)-1,6-dihydropyridine-3-carboxylate
A mixture of methyl 5-bromo-1-cyclopentyl-6-oxo-1,6-dihydropyridine-3-carboxylate (100 mg, 0.33 mmol), pyrrolidine (33 uL, 0.40 mmol), cesium carbonate (150 mg, 0.46 mmol), tris(dibenzylideneacetone)dipalladium (0) (3 mg, 0.0033 mmol), rac-2-2′-bis(diphenyl-phosphino)-1,1′-binaphthyl (3.1 mg, 0.005 mmol) was purged with nitrogen for 30 min, followed by the addition of anhydrous toluene (1.5 mL). The resulting light-brown solution was heated to 95° C. for 17. The mixture was brought to room temperature and partitioned between ethyl acetate and saturated NH4Cl. The organic phase was separated, washed with saturated NH4Cl, brine, dried over MgSO4 and chromatographed on silica gel using 3:1 hexanes:ethyl acetate to afford the title compound as a yellow oil. MS m/z: 291(M+1).

reactant | methyl 5-bromo-1-cyclopentyl-6-oxo-1,6-dihydropyridine-3-carboxylate | 0.33 mmol, 100 mg | BrC1=CC(=CN(C1=O)C1CCCC1)C(=O)OC | C12H14BrNO3
reactant | pyrrolidine | 0.40 mmol, 33 uL | N1CCCC1 | C4H9N
reactant | cesium carbonate | 0.46 mmol, 150 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium | 0.0033 mmol, 3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Methyl 1-cyclopentyl-6-oxo-5-(pyrrolidin-1-yl)-1,6-dihydropyridine-3-carboxylate | C1(CCCC1)N1C=C(C=C(C1=O)N1CCCC1)C(=O)OC | C16H22N2O3
